US06414148B1
Diethyl azodicarboxylate (209 mg, 1.2 mmol) was added dropwise to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6 methoxyquinazoline (128 mg, 0.4 mmol), (prepared as described for the starting material in Example 2), triphenylphosphine (314 mg, 1.2 mmol) and 2-(2-morpholinoethoxy)ethanol (97 mg, 0.56 mmol) in methylene chloride (4 ml) under nitrogen. The mixture was stirs for 1 hour at ambient temperature, triphenylphosphine (105 mg, 0.4 mmol), 2-(2-morpholinoethoxy)ethanol (49 mg, 0.28 mmol) and diethyl azodicarboxylate (70 mg, 0.4 mmol) were added. The mixture was stirred for 1 hour at ambient temperature and was purified by pouring directly onto a silica column eluting with methylene chloride/acetonitrile/methanol (6/3/1). The purified product was triturated with ether, collected by filtration and dissolved in methylene chloride. 2M Ethereal hydrogen chloride (0.5 ml) was added and the resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(2-morpholinoethoxy)ethoxy)quinazoline hydrochloride (100 mg, 45%).

reactant | Diethyl azodicarboxylate | 1.2 mmol, 209 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6 methoxyquinazoline | 0.4 mmol, 128 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-morpholinoethoxy)ethanol | 0.56 mmol, 97 mg | O1CCN(CC1)CCOCCO | C8H17NO3
reactant | triphenylphosphine | 0.4 mmol, 105 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-morpholinoethoxy)ethanol | 0.28 mmol, 49 mg | O1CCN(CC1)CCOCCO | C8H17NO3
reactant | diethyl azodicarboxylate | 0.4 mmol, 70 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(2-morpholinoethoxy)ethoxy)quinazoline hydrochloride | 100 mg, 45% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOCCN2CCOCC2)C=C1)F | InChI=1S/C23H26ClFN4O4.ClH/c1-30-21-13-17-20(26-15-27-23(17)28-19-3-2-16(24)12-18(19)25)14-22(21)33-11-10-32-9-6-29-4-7-31-8-5-29;/h2-3,12-15H,4-11H2,1H3,(H,26,27,28);1H
